US04055570
1,3-bis-(4'-methoxycarbonylphenyl)-2-methylimidazolidine-4,5-dione
A solution of 40.8 g (0.1 mole) of 1,3-bis-(4'-methoxycarbonylphenyl)-2-methylene-imidazolidine-4,5-dione in 500 ml of dimethylformamide is hydrogenated in a laboratory hydrogenating apparatus, after addition of 2 g of a 5% palladium on charcoal catalyst, at room temperature and with vigorous stirring under slight hydrogen overpressure, until the uptake of hydrogen has ceased. The catalyst is filtered off and the solution is poured into 3 liters of ice water with vigorous stirring. The precipitated product is recrystallised from xylene, to yield 32 g of colourless crystals with a melting point of 250° C. The IR and NMR spectra confirm the presumed structure.

reactant | 1,3-bis-(4'-methoxycarbonylphenyl)-2-methylene-imidazolidine-4,5-dione | 0.1 mole, 40.8 g | COC(=O)C1=CC=C(C=C1)N1C(N(C(C1=O)=O)C1=CC=C(C=C1)C(=O)OC)=C | C20H16N2O6
reactant | hydrogen | [H][H] | H2
solvent | dimethylformamide | 500 ml | CN(C=O)C | C3H7NO
catalyst | palladium on charcoal | [Pd] | Pd
product | 1,3-bis-(4'-methoxycarbonylphenyl)-2-methylimidazolidine-4,5-dione | 32 g | COC(=O)C1=CC=C(C=C1)N1C(N(C(C1=O)=O)C1=CC=C(C=C1)C(=O)OC)C | C20H18N2O6
